US06022883
1.5 g of 4-chloro-N-diaminomethylene-3-methylsulfonyl-6-ethyibenzamide [obtainable by reacting guanidine with 3-methylsulfonyl-4-chloro-6-ethyl-benzoic acid], 10 ml of 3-trimethylsilyloxypyridine and 2.9 g of K2CO3 are stirred, at 140° for three hours, in small sealed flasks. After cooling, the solid residue is separated off, washed with a little diethyl ether and dissolved in 50 ml of water. After the customary working-up, N-diaminomethylene-3-methylsulfonyl-6-ethyl-4-(3-pyridyloxy)benzamide is obtained, m.p. 219-223°.

reactant | 4-chloro-N-diaminomethylene-3-methylsulfonyl-6-ethyibenzamide | 1.5 g | ClC1=C(C=C(C(=O)N=C(N)N)C(=C1)CC)S(=O)(=O)C | C11H14ClN3O3S
reactant | K2CO3 | 2.9 g | C(=O)([O-])[O-].[K+].[K+]
solvent | 3-trimethylsilyloxypyridine | 10 ml | C[Si](OC=1C=NC=CC1)(C)C | C8H13NOSi
product | N-diaminomethylene-3-methylsulfonyl-6-ethyl-4-(3-pyridyloxy)benzamide | NC(=NC(C1=CC(=C(C=C1CC)OC=1C=NC=CC1)S(=O)(=O)C)=O)N | C16H18N4O4S
